data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1ccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c(C)c1.[H+]", "products": "Cc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c(C)c1"}, {"reactants": "Cc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c(C)c1", "products": "Cc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c(C)c1.O"}, {"reactants": "Cc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c(C)c1", "products": "Cc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c(C)c1"}, {"reactants": "Cc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c(C)c1", "products": "CC1=C(c2ccc(C)cc2C)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(C)cc2C)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(C)cc2C)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(C)cc2C)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c(C)c1"}, {"reactants": "Cc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c(C)c1", "products": "Cc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c(C)c1"}, {"reactants": "Cc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c(C)c1", "products": "Cc1ccc(C2CCC3C(=O)OC2(C)C3(C)C)c(C)c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(CC)cc1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(CC)cc1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(CC)cc1)C(C)C", "products": "CCc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)cc1"}, {"reactants": "CCc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)cc1", "products": "CCc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])cc1"}, {"reactants": "CCc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])cc1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CCc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])cc1"}, {"reactants": "CCc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])cc1", "products": "CCc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)cc1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "CC(C)c1cccc(C(=O)C2C3CCC2C3)c1", "products": "CC(C)c1cccc([C]([O])C2C3CCC2C3)c1"}, {"reactants": "CC(C)c1cccc([C]([O])C2C3CCC2C3)c1", "products": "CC(C)c1cccc(C([O])=CC2C[CH]CC2)c1"}, {"reactants": "CC(C)c1cccc(C([O])=CC2C[CH]CC2)c1", "products": "CC(C)c1cccc(C(O)=CC2C=CCC2)c1"}, {"reactants": "CC(C)c1cccc(C(O)=CC2C=CCC2)c1", "products": "CC(C)c1cccc(C(=O)CC2C=CCC2)c1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cccc(Cl)c1Cl)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(Cl)c1Cl)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(Cl)c1Cl)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cccc(Cl)c2Cl)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cccc(Cl)c2Cl)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cccc(Cl)c2Cl)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cccc(Cl)c2Cl)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cccc(Cl)c2Cl)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cccc(Cl)c2Cl)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2cccc(Cl)c2Cl)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(OC)C(C)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(OC)C1(C)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(OC)C1(C)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(OC)C1(C)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(OC)C1(C)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(OC)C1(C)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1cc(F)c(F)cc1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1cc(F)c(F)c[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1cc(F)c(F)c[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cc(F)c(F)cc21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cc(F)c(F)cc21", "products": "CN1C(=O)C2(C=CCC2)c2cc(F)c(F)cc21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1cccc(C(Cl)O[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "Cc1cccc(C(Cl)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "Cc1cccc(C(Cl)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Cl)c1cccc(C)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Cl)c1cccc(C)c1", "products": "Cc1cccc(C(Cl)O[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
